US08686028B2
BF3—OEt2 complex (14 ml, 112 mmol) was gradually added to a solution of 1-(2,4-dihydroxy-phenyl)-2-(2,4-dimethoxy-phenyl)-ethanone (8.1 gm, 28 mmol) in DMF at 0° C. The resulting solution was stirred for 30 min. Mesityl chloride (6.5 ml, 84 mmol) was then gradually added to it at 50° C. The solution was then heated up to 110° C. for 5 hours. The mixture was then concentrated. The residue was treated with ice and the solid obtained was purified with silica gel column chromatography using hexane-chloroform as the eluent to give 3-(2,4-dimethoxy-phenyl)-7-hydroxy-chromen-4-one (5.9 gm, 70%) as white solid.

reactant | 1-(2,4-dihydroxy-phenyl)-2-(2,4-dimethoxy-phenyl)-ethanone | 28 mmol, 8.1 gm | OC1=C(C=CC(=C1)O)C(CC1=C(C=C(C=C1)OC)OC)=O | C16H16O5
reactant | Mesityl chloride | 84 mmol, 6.5 ml | C1(=C(C(=CC(=C1)C)C)Cl)C | C9H11Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2,4-dimethoxy-phenyl)-7-hydroxy-chromen-4-one | 5.9 gm, 70% | COC1=C(C=CC(=C1)OC)C1=COC2=CC(=CC=C2C1=O)O | C17H14O5
